US05629321
After cooling 40 ml of fuming nitric acid to -30° to -35° C., 5.8 g of 4-chromanone was added with stirring over about 30 minutes and further stirred for 30 minutes at the same temperature. The reaction mixture was successively poured into ice water and extracted with 500 ml of ethyl acetate. The organic layer was dried with anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The crude product thus obtained was washed with a solvent mixture, n-hexane:ethyl acetate=1:1, to give 5.4 g of 6-nitro-4-chromanone.

reactant | 4-chromanone | 5.8 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
product | 6-nitro-4-chromanone | 5.4 g | [N+](=O)([O-])C=1C=C2C(CCOC2=CC1)=O | C9H7NO4
